US09290485B2
d) Ethyl 2-(phenylamino)oxazole-4-carboxylate
A solution of 1-phenylurea (2.0 g, 14.69 mmol) and ethyl 3-bromo-2-oxopropanoate (2.16 ml, 14.69 mmol) in DMF (58 ml) was heated at 60° C. for 3 hours. The reaction mixture was allowed to cool to rt and quenched with water (300 ml)/Na2CO3-solution (50 ml). The product was extracted with EA (2×). The combined organic phases were washed with brine, dried over Na2SO4, filtered and evaporated under reduced pressure to afford crude product. Purification by flash-chromatography (Silica gel 62 g, gradient: cyclohexane/EA (80 ml/min.) from 95/5 (5 min.) to 80/20 (25 min.)) afforded the title compound. HPLC (Method U): RtU=1.91 min, MS (Method D) [M+H]+=233.1.

reactant | 1-phenylurea | 14.69 mmol, 2.0 g | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
reactant | ethyl 3-bromo-2-oxopropanoate | 14.69 mmol, 2.16 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | DMF | 58 ml | CN(C)C=O | C3H7NO
product | Ethyl 2-(phenylamino)oxazole-4-carboxylate | C1(=CC=CC=C1)NC=1OC=C(N1)C(=O)OCC | C12H12N2O3
